US05321026
N-Methylpyrrolidine (2.6 cc) is added to a solution of (2RS)-2-[2-(N-propylcarbamoyl)-10-phenothiazinyl)propyl methanesulphonate (2.1 g) in acetonitrile (40 cc). The mixture is brought to reflux for 120 hours. After cooling, the solution obtained is concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. to give an oily residue, which is taken up with diethyl ether (50 cc). After one hour's stirring at 20° C., the suspension is filtered and the solid is washed with diethyl ether (3×10 cc) and then dried at 20° C. under reduced pressure (5 mmHg; 0.7 kPa. 1-Methyl-1-{(2RS)-2-[2-(N-propylcarbamoyl)-10-phenothiazinyl]propyl}pyrrolidinium methylsulphonate (2 g) is thereby obtained in the form of an orange-colored solid.

reactant | N-Methylpyrrolidine | 2.6 cc | CN1CCCC1 | C5H11N
reactant | (2RS)-2-[2-(N-propylcarbamoyl)-10-phenothiazinyl)propyl methanesulphonate | 2.1 g | CS(=O)(=O)OCC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(NCCC)=O | C20H24N2O4S2
reactant | diethyl ether | 50 cc | C(C)OCC | C4H10O
solvent | acetonitrile | 40 cc | C(C)#N | C2H3N
product | 1-Methyl-1-{(2RS)-2-[2-(N-propylcarbamoyl)-10-phenothiazinyl]propyl}pyrrolidinium methylsulphonate | 2 g | CS(=O)(=O)[O-].C[N+]1(CCCC1)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(NCCC)=O | InChI=1S/C24H31N3OS.CH4O3S/c1-4-13-25-24(28)19-11-12-23-21(16-19)26(20-9-5-6-10-22(20)29-23)18(2)17-27(3)14-7-8-15-27;1-5(2,3)4/h5-6,9-12,16,18H,4,7-8,13-15,17H2,1-3H3;1H3,(H,2,3,4)
